US07612114B2
[2-(4-Benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine
Synthesized from 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (400 mg) and 4-benzyloxyphenylacetyl chloride (700 mg) according to an analogous synthetic method to Example 152, the title compound (591 mg) was obtained.

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 400 mg | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | 4-benzyloxyphenylacetyl chloride | 700 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)Cl | C15H13ClO2
product | [2-(4-Benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 591 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C33H35NO3
